US06916822B2
(b) 1-[2-(4-Diethylcarbamoylbenzyl)phenoxy]acetaldehyde
1-[2-(4-Diethylcarbamoylbenzyl)phenoxy]-2,3-dihydroxypropane (263 mg) was dissolved in a mixed solution of dioxane (2.6 ml) and water (2.6 ml), added with sodium periodate (362 mg) and stirred at room temperature for 1 hour. The reaction mixture was added with water (10 ml) and extracted twice with dichloromethane (10 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to obtain 239 mg of the title compound. Yield: 100%.

reactant | 1-[2-(4-Diethylcarbamoylbenzyl)phenoxy]-2,3-dihydroxypropane | 263 mg | C(C)N(C(=O)C1=CC=C(CC2=C(OCC(CO)O)C=CC=C2)C=C1)CC | C21H27NO4
reactant | sodium periodate | 362 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | dioxane | 2.6 ml | O1CCOCC1 | C4H8O2
solvent | water | 2.6 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 1-[2-(4-Diethylcarbamoylbenzyl)phenoxy]acetaldehyde | 239 mg, Yield: 100% | C(C)N(C(=O)C1=CC=C(CC2=C(OC(C)=O)C=CC=C2)C=C1)CC | C20H23NO3
